US06518005B2
A mixture consisting of pyrrole-2-carboxaldehyde (9.5 g, 0.1 mole), anhydrous potassium carbonate (27.6 g, 0.2 mole) and 2-ethoxyethyl α-bromobutyrate (23.6 g, 0.105), as previously described, were kept under stirring in 20 ml DMF at room temperature for 12 hours. The reaction mixture was carefully poured into water, extracted with ethylacetate and the extracts were dried on sodium sulfate. After evaporation of the solvent, 15.5 g of 1-[1-(2-ethoxyethoxycarbonyl)-propyl]-2-formyl pyrrole were obtained as a brown oil, which was used in the subsequent step without any further purification.

reactant | pyrrole-2-carboxaldehyde | 0.1 mole, 9.5 g | N1C(=CC=C1)C=O | C5H5NO
reactant | potassium carbonate | 0.2 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethoxyethyl α-bromobutyrate | 23.6 g | BrC(C(=O)OCCOCC)CC | C8H15BrO3
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[1-(2-ethoxyethoxycarbonyl)-propyl]-2-formyl pyrrole | 15.5 g | C(C)OCCOC(=O)C(CC)N1C(=CC=C1)C=O | C13H19NO4
